US07601716B2
4-(2-Chloro-3,6-difluorophenoxy)-6-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridine
6-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridin-4-ol (85 mg) was reacted with 2-chloro-3,6-difluorophenol (50 mg) as in General Procedure 12. Silica gel chromatography using a gradient of 0-10% methanol/CH2Cl2 as the eluting solvent gave the title compound as a yellow foam (54% yield). LCMS: m/z=472 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 1.89 (m, 1H), 2.21 (s, 3H), 2.24 (m, 1H), 2.39 (t, J=4.8 Hz, 4H), 3.40 (m, 1H), 3.47 (t, J=4.8 Hz, 4H), 3.63 (m, 1H), 6.82 (d, J=8.8 Hz, 1H), 7.03 (d, J=2.3 Hz, 1H), 7.17 (d, J=2.3 Hz, 1H) 7.25 (m, 1H), 7.39 (m, 1H), 7.52 (dd, J=2.5, 8.8 Hz, 1H), 8.08 (d, J=2.5 Hz, 1H), 8.19 (d, J=2.5 Hz, 1H).

reactant | 6-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridin-4-ol | 85 mg | CN1CCN(CC1)C1=CC=C(C=N1)C=1C=C2C(CCNC2=NC1)O | C18H23N5O
reactant | 2-chloro-3,6-difluorophenol | 50 mg | ClC1=C(C(=CC=C1F)F)O | C6H3ClF2O
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | 4-(2-Chloro-3,6-difluorophenoxy)-6-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridine | 54% yield | ClC1=C(OC2CCNC3=NC=C(C=C23)C=2C=NC(=CC2)N2CCN(CC2)C)C(=CC=C1F)F | C24H24ClF2N5O
